US06620839B2
cyclopropyl(4-{3-[(3R)-3-hydroxypyrrolidinyl]propoxy}phenyl)methanone
(4-(3-Chloropropoxy)phenyl)(cyclopropyl)methanone (150 mg, 0.63 mmol), 3-(3R)-hydroxypyrrolidine (55 mg, 0.63 mmol), potassium carbonate (152 mg) and potassium iodide (183 mg) in 25 mL of 2-butanone were heated at 110° C. for 72 hours. The mixture was evaporated under reduced pressure and the residue was purified by chromatography (CHCl3:MeOH:NH4OH, 9:1:0.1) to provide the title compound (62% yield).

reactant | (4-(3-Chloropropoxy)phenyl)(cyclopropyl)methanone | 0.63 mmol, 150 mg | ClCCCOC1=CC=C(C=C1)C(=O)C1CC1 | C13H15ClO2
reactant | 3-(3R)-hydroxypyrrolidine | 0.63 mmol, 55 mg | O[C@H]1CNCC1 | C4H9NO
reactant | potassium carbonate | 152 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 183 mg | [I-].[K+]
solvent | 2-butanone | 25 mL | CC(CC)=O | C4H8O
product | cyclopropyl(4-{3-[(3R)-3-hydroxypyrrolidinyl]propoxy}phenyl)methanone | 62% yield | C1(CC1)C(=O)C1=CC=C(C=C1)OCCCN1C[C@@H](CC1)O | C17H23NO3
